US08183246B2
Put 455 mg (2.23 mmol) {[(3R)-3-hydroxybutyl]oxy}acetic acid tert.-butyl ester (which contains up to approx. 10% {[(1R)-3-hydroxy-1-methylpropyl]oxy}acetic acid tert.-butyl ester) under argon in 5 ml THF and cool to 0° C. Add 1.15 ml (2.23 mmol) of a 2 M solution of phosphazene base P2-tert.-butyl in THF and stir for a further 10 min at RT. Then cool to 0° C. again. Add 500 mg (1.49 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine and stir overnight at RT. Then dilute with water, acidify with 10% aqueous citric acid solution and extract twice with ethyl acetate. Combine the ethyl acetate phases and wash once with satd. sodium chloride solution. Dry over magnesium sulphate and concentrate by evaporation. Purify the residue by chromatography on silica gel (solvent: cyclohexane/ethyl acetate 9:1). 450 mg (60.1% of theor.) of the target compound is obtained. 75 mg (9.0% of theor.) of (−)-{[(1R)-3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropyl]oxy}acetic acid tert.-butyl ester is isolated as by-product (see Example 77).

reactant | {[(3R)-3-hydroxybutyl]oxy}acetic acid tert.-butyl ester | 2.23 mmol, 455 mg | C(C)(C)(C)OC(COCC[C@@H](C)O)=O | C10H20O4
reactant | {[(1R)-3-hydroxy-1-methylpropyl]oxy}acetic acid tert.-butyl ester | C(C)(C)(C)OC(CO[C@@H](CCO)C)=O | C10H20O4
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 1.49 mmol, 500 mg | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (−)-{[(1R)-3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropyl]oxy}acetic acid tert.-butyl ester | 75 mg, 9.0% | C(C)(C)(C)OC(CO[C@@H](CCOC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C29H32N2O6
